US06258824B1
23B. (5-Chloro-thiophen-2-yl)-[4-(3-ethoxy-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol
Following the same procedure as that described in example 1E, 6-bromo-4-(3-ethoxy-phenyl)-2-methoxy-quinoline (800 mg, 2.23 mmol) and (5-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanone (610 mg, 2.68 mmol) generated the title compound of 23B (810 mg, 72% yield).

reactant | 6-bromo-4-(3-ethoxy-phenyl)-2-methoxy-quinoline | 2.23 mmol, 800 mg | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OCC | C18H16BrNO2
reactant | (5-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanone | 2.68 mmol, 610 mg | ClC1=CC=C(S1)C(=O)C=1N(C=NC1)C | C9H7ClN2OS
product | (5-Chloro-thiophen-2-yl)-[4-(3-ethoxy-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol | 810 mg, 72% yield | ClC1=CC=C(S1)C(O)(C=1N(C=NC1)C)C=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OCC | C27H24ClN3O3S
